data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_681766_1,[C:1]([C:4]([C:7]([C:2]([H:16])([H:17])[H:18])(/[C:5](=[N:3]/[H:9])[N:6]([H:10])[H:11])[H:12])=[O:8])([H:13])([H:14])[H:15]>>[C:1]([C:4]([N:3](/[C:5]([N:6]([H:10])[H:11])=[C:7](/[C:2]([H:16])([H:17])[H:18])[H:12])[H:9])=[O:8])([H:13])([H:14])[H:15],47.47853249997689
MR_1786_0,[C:1]([C:2](=[C:5]([H:14])[H:15])[O:6]/[C:3](=[C:4](\[O:7][H:8])[H:10])[H:9])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]([C:4](=[O:7])[H:10])([O:6][H:8])[H:9])=[C:5]([H:14])[H:15])([H:11])([H:12])[H:13],60.749529999999936
MR_486925_1,[C:1](/[C:4](=[C:6](\[C:3]([H:19])([H:20])[H:21])[N:8]([H:12])[H:13])[N:7]([H:10])[H:11])([C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])([H:14])[H:15]>>[C:1](=[C:4]([C@@:6]([C:3]([H:19])([H:20])[H:21])([C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])[N:8]([H:12])[H:13])[N:7]([H:10])[H:11])([H:14])[H:15],49.86428750001721
MR_166977_1,[C:1]1([H:11])([H:12])[C:3]([C:2]([H:13])([H:14])[H:15])(/[N:6]=[N:4]/[H:8])[C:5]1([O:7][H:9])[H:10]>>[C:1](/[C:3]([C:2]([H:13])([H:14])[H:15])=[N:6]/[N:4]([H:8])[H:9])([C:5](=[O:7])[H:10])([H:11])[H:12],35.161335000006915
MR_349809_0,[C:1]([N:2](/[C:4](=[C:5](/[C:3]([N:6]([H:11])[H:12])=[O:9])[N:8]([H:15])[H:16])[N:7]([H:13])[H:14])[H:10])([H:17])([H:18])[H:19]>>[C:1]([N:2](/[C:5](=[C:4](/[C:3]([N:6]([H:11])[H:12])=[O:9])[N:7]([H:13])[H:14])[N:8]([H:15])[H:16])[H:10])([H:17])([H:18])[H:19],68.66042250000163
MR_499452_0,[C:1](/[C:2](=[C:6](\[N:5]([H:14])[H:15])[H:16])[O:7][H:9])([N:4]([H:12])[H:13])=[N:8]/[N:3]([H:10])[H:11]>>[C:1]1([N:4]([H:12])[H:13])=[C:2]([O:7][H:9])[C@:6]([N:5]([H:14])[H:15])([H:16])[N:8]1[N:3]([H:10])[H:11],63.55194499998703
MR_345365_1,[C:1]([N:3]([N:4]([H:9])[H:10])/[N:6]=[N:7]/[C:2]([H:13])([H:14])[H:15])([O:5][H:8])([H:11])[H:12]>>[C:1]([O:5][H:8])([N:7]([C:2]([H:13])([H:14])[H:15])/[N:6]=[N:3]\[N:4]([H:9])[H:10])([H:11])[H:12],56.956920000016
MR_70018_1,[C:1](/[C:3]([N:2]([C:5](=[O:7])[H:11])[H:8])=[C:6](\[N:4]([H:9])[H:10])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:3](=[N:2]/[H:8])[C:6]([N:4]([H:9])[H:10])([C:5](=[O:7])[H:11])[H:12])([H:13])([H:14])[H:15],57.952762499998585
MR_404920_2,[C:1](\[N:4]([C:2]([H:14])([H:15])[H:16])[H:9])(=[C:6]([C:3]([H:17])([H:18])[H:19])\[C:5](=[N:7]\[H:13])[N:8]([H:11])[H:12])[H:10]>>[C:1]1([C:6]([C:3]([H:17])([H:18])[H:19])=[C:5]([N:7]([H:13])[H:14])[N:8]([H:11])[H:12])([H:10])[C:2]([H:15])([H:16])[N:4]1[H:9],69.73031000001129
MR_69003_0,[C:1]([N:3](/[C:4](=[C:6](\[C:2]([H:15])([H:16])[H:17])[H:11])[O:8][H:9])[C:5](=[C:7]([H:18])[H:19])[H:10])([H:12])([H:13])[H:14]>>[C:1](/[N:3]=[C:4](/[C:6]([C:2]([H:15])([H:16])[H:17])([C:5](=[C:7]([H:18])[H:19])[H:10])[H:11])[O:8][H:9])([H:12])([H:13])[H:14],61.08022250002108
MR_235925_0,[C:1]1([H:5])([H:6])[C:2]([H:8])([H:9])[C:3]([H:7])[N:4]1>>[C:1]([N:4][C:3](=[C:2]([H:8])[H:9])[H:7])([H:5])[H:6],32.6262350000048
MR_373506_0,[C:1]([O:5]/[C:3]([C:2]([H:13])([H:14])[H:15])=[N:7]/[N:4]([H:9])[H:10])([O:6][H:8])([H:11])[H:12]>>[C:1]([O:6][H:8])([N:7]([C:3]([C:2]([H:13])([H:14])[H:15])=[O:5])[N:4]([H:9])[H:10])([H:11])[H:12],39.80859999997321
MR_111290_0,[C:1](/[C:4]([C:3]([H:13])([H:14])[H:15])=[N:6]/[C:2]([H:10])([H:11])[H:12])([O:5][H:7])([H:8])[H:9]>>[C:1](=[C:4](\[C:3]([H:13])([H:14])[H:15])[N:6]([C:2]([H:10])([H:11])[H:12])[H:9])(\[O:5][H:7])[H:8],59.11426499999095
MR_161529_0,[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:3](/[N:4]([H:10])[H:11])[C:6]([N:5]([H:12])[H:13])([O:7][H:8])[H:14])[H:9]>>[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:3]([N:4]([H:10])[H:11])=[C:6](/[N:5]([H:12])[H:13])[H:14])([O:7][H:8])[H:9],51.72168749996473
MR_389260_0,[C:1]([O:5]/[C:2](=[C:4](\[N:3]([H:11])[H:12])[H:13])[O:7][H:10])([O:6][H:9])=[O:8]>>[C:1]1(=[O:8])[C@:2]([C@:4]([N:3]([H:11])[H:12])([O:6][H:9])[H:13])([O:7][H:10])[O:5]1,47.39633000004176
MR_670827_0,[C:1]([C:5]([C:7]([C:3]([H:20])([H:21])[H:22])(/[C:6]([C:2]([H:17])([H:18])[H:19])=[N:4]\[O:9][H:11])[N:8]([H:12])[H:13])=[O:10])([H:14])([H:15])[H:16]>>[C:1]([C:5]([N:4](/[C:6]([C:2]([H:17])([H:18])[H:19])=[C:7](/[C:3]([H:20])([H:21])[H:22])[N:8]([H:12])[H:13])[O:9][H:11])=[O:10])([H:14])([H:15])[H:16],51.47319749998573
MR_669776_0,[C:1]1([C:2]([H:12])([H:13])[H:14])([N:4]2[C:5]([C:3]([H:15])([H:16])[H:17])=[C:6]2[H:9])[C:7]([H:11])=[C:8]1[H:10]>>[C:1]1([C:2]([H:12])([H:13])[H:14])=[C:8]([H:10])[C:7]1([C:5]1([C:3]([H:15])([H:16])[H:17])[N:4]=[C:6]1[H:9])[H:11],20.883199999994133
MR_187580_0,[C@:1]([C:2]([H:9])([H:10])[H:11])([O:3][H:6])([N:4][N:5][H:8])[H:7]>>[C:1](\[C:2]([H:9])([H:10])[H:11])([O:3][H:6])=[N:4]/[N:5]([H:7])[H:8],72.0363725000388
MR_400593_1,[C:1]([C:5]([C:2]([H:17])([H:18])[H:19])=[N:8]/[C:4]([N:3]([N:6]([H:10])[H:11])[N:7]([H:12])[H:13])=[N:9]/[H:14])([H:15])([H:16])[H:20]>>[C:1]([C:5]([C:2]([H:17])([H:18])[H:19])([N:3]([N:6]([H:10])[H:11])[N:7]([H:12])[H:13])[N:8][C:4][N:9][H:14])([H:15])([H:16])[H:20],47.8500124999664
